US06573293B2
5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic Acid Ethyl Ester
5-Bromo-1,3-dihydroindol-2-one (60 mg, 0.29 mmol) was condensed with 5-formyl-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester (75 mg) to give 78 mg (60%) of the title compound as an orange solid.

reactant | 5-Bromo-1,3-dihydroindol-2-one | 0.29 mmol, 60 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 5-formyl-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | 75 mg | C(C)OC(=O)C1=C(NC(=C1C1=CC=CC=C1)C=O)C | C15H15NO3
product | 5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic Acid Ethyl Ester | 78 mg, 60% | C(C)OC(=O)C1=C(NC(=C1C1=CC=CC=C1)C=C1C(NC2=CC=C(C=C12)Br)=O)C | C23H19BrN2O3
